US04933355
(E)-3-[2-(3-p-Bromophenylureido)thiazol-4-yl]acrylaldehyde
Following a procedure similar to that described in Preparation 49, the desired compound was prepared from 0.84 g of (E)-3-[2-(3-p-bromophenylureido)thiazol-4-yl]allyl alcohol, 1.13 g of a sulfur trioxide pyridine complex, 0.72 g of triethylamine and 20 ml of dimethyl sulfoxide. The resulting product was a pale brown powder having the following physical properties.

reactant | (E)-3-[2-(3-p-bromophenylureido)thiazol-4-yl]allyl alcohol | 0.84 g | BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)/C=C/CO)=O | C13H12BrN3O2S
reactant | triethylamine | 0.72 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | (E)-3-[2-(3-p-Bromophenylureido)thiazol-4-yl]acrylaldehyde | BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)/C=C/C=O)=O | C13H10BrN3O2S
